US06727256B1
(4-Benzyloxyphenyl)-(6-(5-(1,3-dioxolan-2-yl)-furan-2-yl)-7-fluoro-quinazolin-4-yl)-amine
Synthesized according to Procedure B from a solution of (4-benzyloxyphenyl)-(6-iodo-7-fluoro-quinazolin-4-yl)-amine hydrochloride (508 mg, 1 mmole), 5-(1,3-dioxolan-2-yl)-2-(tributylstannyl)furan (645 mg, 1.5 mmole), diisopropylethyl amine (650 mg, 5 mmole), and dichlorobis(triphenylphosphine) palladium (140 mg, 0.2 mmole) in 6 ml of DMF under nitrogen was stirred at 100° C. (oil bath temperature) for 4 hours. The cooled reaction mixture was extracted with water (100 ml) and ethyl acetate (100 ml). The organic phase was washed with brine (100 ml). The aqueous layers were combined and washed with additional ethyl acetate (100 ml). The organic layers were combined, dried with MgSO4, filtered and concentrated to a residue. The residue was chromatographed on silica gel with a methanol-chloroform mixture. Fractions were collected, combined, and concentrated. The resultant solid was suspended in dichloromethane (10 ml) and diethyl ether was added facilitate precipitation. The solid was filtered and dried under vacuum at room temperature to yield a yellowish solid 287 mg (59%). 1H NMR (400 MHz, DMSO-d6) δ: 10.1(s, 1H), 8.85(d, 1H), 8.45(s, 1H), 7.6(m, 3H), 7.44(d, 2H), 7.38(m, 2H), 7.31(m, 1H), 7.03(m, 2H), 6.94(m, 1H), 6.74(d, 1H), 6.01(s, 1H), 5.1(s, 2H), 4.10(m, 2H), 3.96(m, 2H). ESI-MS m/z 482(M−1).

reactant | (4-benzyloxyphenyl)-(6-iodo-7-fluoro-quinazolin-4-yl)-amine hydrochloride | 1 mmole, 508 mg | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC(=C(C=C12)I)F
reactant | 5-(1,3-dioxolan-2-yl)-2-(tributylstannyl)furan | 1.5 mmole, 645 mg | O1C(OCC1)C1=CC=C(O1)[Sn](CCCC)(CCCC)CCCC
reactant | diisopropylethyl amine | 5 mmole, 650 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | (4-Benzyloxyphenyl)-(6-(5-(1,3-dioxolan-2-yl)-furan-2-yl)-7-fluoro-quinazolin-4-yl)-amine | 287 mg, 59% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC(=C(C=C12)C=1OC(=CC1)C1OCCO1)F | C28H22FN3O4
